US06780421B1
Synthesis of 3β-[N-(N′,N′-dimethylaminoethane)-carbamoyl]cholesterol (DC chol)
A solution of cholesteryl chloroformate (2.25 g, 5 mmol in 5 ml of dry chloroform) is added dropwise to an excess of a solution of N,N-dimethylethylenediamine (2 ml, 18.2 mmol, in 3 ml of dry chloroform) at 0° C. After extraction of the solvent by evaporation, the residue is purified by 2 successive recrystallizations in absolute ethanol at 4° C., and dried under vacuum. 0.545 g of DC chol is thereby obtained in the form of a white powder. The structure of the compound was verified by NMR and mass spectrometry. The results obtained are in agreement with the data published in the paper cited above.

reactant | cholesteryl chloroformate | 5 mmol, 5 ml, 2.25 g | C[C@H](CCCC(C)C)[C@H]1CCC2[C@@]1(CCC3C2CC=C4[C@@]3(CCC(C4)OC(=O)Cl)C)C | C28H45ClO2
reactant | N,N-dimethylethylenediamine | 18.2 mmol, 2 ml | CN(CCN)C | C4H12N2
product | 3β-[N-(N′,N′-dimethylaminoethane)-carbamoyl]cholesterol | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)OC(=O)NCCN(C)C)C)C | C32H56N2O2
